US08168666B2
Preparation of 4-[1,1,1,3,3,3-hexafluoro-2-(methoxymethyl)oxypropan-2-yl]-2-iodophenol
Potassium iodide (1.24 g) and potassium hydroxide (0.46 g) were added to a mixed solution of 4-[1,1,1,3,3,3,-hexafluoro-2-(methoxymethyl)oxypropan-2-yl]phenol (2.50 g, 8.21 mmol) in methanol (63 mL) at room temperature. Then, a 4% sodium hypochlorite solution (15.4 mL) was added in an ice bath over three hours. The mixture was returned to room temperature and stirred overnight. A 1 mol/L sodium thiosulfate aqueous solution was added to the reaction solution at room temperature, and then the pH was adjusted to 7 with 2 mol/L hydrochloric acid. After extraction with diethyl ether-water, the organic layer was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:1) to obtain 2.44 g of the title compound (yield: 69%) as a colorless solid.

reactant | Potassium iodide | 1.24 g | [I-].[K+]
reactant | potassium hydroxide | 0.46 g | [OH-].[K+]
reactant | 4-[1,1,1,3,3,3,-hexafluoro-2-(methoxymethyl)oxypropan-2-yl]phenol | 8.21 mmol, 2.50 g | FC(C(C(F)(F)F)(OCOC)C1=CC=C(C=C1)O)(F)F | C11H10F6O3
reactant | sodium hypochlorite | 15.4 mL | Cl[O-].[Na+]
reactant | sodium thiosulfate | 1 mol/L | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
solvent | methanol | 63 mL | CO | CH4O
product | 4-[1,1,1,3,3,3-hexafluoro-2-(methoxymethyl)oxypropan-2-yl]-2-iodophenol | 2.44 g, yield: 69% | FC(C(C(F)(F)F)(OCOC)C1=CC(=C(C=C1)O)I)(F)F | C11H9F6IO3
